US06350749B1
To a solution of 1-amino-5-(2-chlorophenyl)cyclohexen-3-one (2.0 g) in acetonitrile (50 ml) was added phenyl isothiocyanate (1.2 g), and the mixture was refluxed for 15 hours. Under reduced pressure, the solvent was evaporated, and to the residue were added ethanol (20 ml) and hydrazine hydrate (0.55 g). The mixture was refluxed for 1 hour, and under reduced pressure, the solvent was evaporated. The residue was washed with ethyl acetate to give yellow crystals of 6-(2-chlorophenyl)-3-phenylamino-4,5,6,7-tetrahydroindazol-4-one (0.8 g).

reactant | 1-amino-5-(2-chlorophenyl)cyclohexen-3-one | 2.0 g | NC1=CC(CC(C1)C1=C(C=CC=C1)Cl)=O | C12H12ClNO
reactant | phenyl isothiocyanate | 1.2 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-(2-chlorophenyl)-3-phenylamino-4,5,6,7-tetrahydroindazol-4-one | 0.8 g | ClC1=C(C=CC=C1)C1CC(C=2C(=NNC2C1)NC1=CC=CC=C1)=O | C19H16ClN3O
